US07138411B2
Step 1. Preparation of 5-phenoxysalicylaldehyde.
Ethyl magnesium bromide (67.5 mL of an approximately 3.0 M solution in diethyl ether, 202.5 mmol) was added to toluene (50 mL). A solution of 4-phenoxyphenol (25.00 g, 134.26 mmol) in diethyl ether (35 mL) was added resulting in the evolution of gas. The reaction was heated to 80° C. causing distillation of the diethyl ether. Toluene (300 mL), HMPA (23.4 mL, 24.059 g, 134.26 mmol), and paraformaldehyde (10.07 g, 335.65 mmol) were added and the reaction was heated to 85° C. for 4 hours. The reaction was cooled to room temperature and was acidified with 2N HCl.

reactant | Ethyl magnesium bromide | C(C)[Mg]Br
reactant | 4-phenoxyphenol | 134.26 mmol, 25.00 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | HMPA | 134.26 mmol, 23.4 mL, 24.059 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | paraformaldehyde | 335.65 mmol, 10.07 g | C=O | CH2O
reactant | HCl | 2N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 35 mL | C(C)OCC | C4H10O
solvent | Toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 5-phenoxysalicylaldehyde | O(C1=CC=CC=C1)C1=CC=C(C(C=O)=C1)O | C13H10O3
